US05130119
(a) 4-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid methyl ester
2.35 g (10 mmol) of 4-chlorosulfonyl-benzoic acid methyl ester is suspended in 30 ml of dichloromethane with exclusion of moisture, the suspension is cooled to -50° C and, at this temperature, a solution of 1.47 g (10 mmol) of 2,4,6-trifluoroaniline and 1 ml of pyridine in 20 ml of dichloromethane is instilled. When the instillation is completed, it is allowed to come to room temperature and stirred for 12 more hours. The resulting precipitate is suctioned off and extracted with ether. The ether extract and the filtrate together are concentrated by evaporation, the residue is dissolved in dichloroethane and chromatographed on silica gel 60 (Merck) with ethyl acetate/hexane. 2.71 g (7.96 mmol)=78.6% of the theoretical yield is obtained as a partially crystalline, partially amorphous product.

reactant | 4-chlorosulfonyl-benzoic acid methyl ester | 10 mmol, 2.35 g | COC(C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
reactant | 2,4,6-trifluoroaniline | 10 mmol, 1.47 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)S(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O | C14H10F3NO4S
